US05091394
Precursors of Example 28 starting from 4-chloro-3-methylsulfonylbenzoic acid via 4-N-hydrazino-3-methylsulfonylbenzoic acid (m.p. 243°-245° C.) and its hydrogenolytic N-N cleavage with Raney nickel catalyst in methanol/aq. NH3 under normal pressure at room temperature to give 4-amino-3-methylsulfonylbenzoic acid (m.p. 258°-262° C.) and subsequent reaction with thionyl chloride and methanol to give methyl 4-amino-3-methylsulfonylbenzoate (m.p. 146° C.).

reactant | 4-amino-3-methylsulfonylbenzoic acid | NC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)C | C8H9NO4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | methyl 4-amino-3-methylsulfonylbenzoate | NC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H11NO4S
